US04125729
Methyl(m-[m-phenoxyphenoxy]phenoxy)-α-[p-(p-chlorophenoxy)phenyl]acetate
To a solution of 6.96 g of m-(m-phenoxyphenoxy)phenol, 1.19 g of sodium methoxide and 50 mg of potassium iodide in 40 ml of methanol is added 7.11 g of methyl α-bromo-α-(p-(p-chlorophenoxy)phenyl]acetate in 10 ml of benzene. The mixture is refluxed for 20 hours, poured into ice and water and extracted with chloroform. The chloroform extracts are washed with 10% potassium carbonate and with water. The extract is dried over magnesium sulfate and concentrated under vacuum to given an oil. Filtration once through silica gel (chloroform solvent) and again through silica gel with benzene as solvent gives the product as an oil.

reactant | m-(m-phenoxyphenoxy)phenol | 6.96 g | O(C1=CC=CC=C1)C=1C=C(OC=2C=C(C=CC2)O)C=CC1 | C18H14O3
reactant | sodium methoxide | 1.19 g | C[O-].[Na+]
reactant | potassium iodide | 50 mg | [I-].[K+]
reactant | methyl α-bromo-α-(p-(p-chlorophenoxy)phenyl]acetate | 7.11 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C15H12BrClO3
solvent | methanol | 40 ml | CO | CH4O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | Methyl(m-[m-phenoxyphenoxy]phenoxy)-α-[p-(p-chlorophenoxy)phenyl]acetate | COC(C(C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)OC1=CC(=CC=C1)OC1=CC(=CC=C1)OC1=CC=CC=C1)=O | C33H25ClO6
